US07553833B2
In a manner similar to the method described in example 2 (method B), rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-(1-methylethyl)-spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione (402.3 mg, 1.00 mmole) was reacted with NH2OH—HCl (347.5 mg, 5.00 mmol), NaOH (200.0 mg, 5.00 mmole) in EtOH-water (3/2, 15 mL) at refluxing for 3 hrs, followed by reacting with p-toluenesulfonyl chloride (762.8 mg, 4.00 mmol) in dichloromethane (20 mL) at room temperature for 2 hrs, and heating under microwave irradiation at 100° C. for 20 min. After diluted with AcOEt the mixture was washed with water, dried over Na2SO4 and concentrated. The residue was purified by chiral column chromatography to give (3R,4S,5S)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5-(1-methylethyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (18.9 mg): HRMS (ES+) m/z Calcd for C22H22Cl2N2O2+H [(M+H)+]: 417.1131. Found: 417.1132; (3R,4S,5R)-6′-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3-(1-methylethyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (18.2 mg): HRMS (ES+) m/z Calcd for C22H22Cl2N2O2+H [(M+H)+]: 417.1131. Found: 417.1132; (3S,4R,5R)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5-(1-methylethyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (17.6 mg): HRMS (ES+) m/z Calcd for C22H22Cl2N2O2+H [(M+H)+]: 417.1131. Found: 417.1132; and (3S,4R,5S)-6′-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3-(1-methylethyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (15.1 mg): HRMS (ES+) m/z Calcd for C22H22Cl2N2O2+H [(M+H)+]: 417.1131, Found: 417.1132.

reactant | rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-(1-methylethyl)-spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione | 1.00 mmole, 402.3 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CC(CC3C(C)C)=O)C3=CC(=CC=C3)Cl | C22H21Cl2NO2
reactant | NH2OH—HCl | 5.00 mmol, 347.5 mg | NO.Cl
reactant | NaOH | 5.00 mmole, 200.0 mg | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 4.00 mmol, 762.8 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | EtOH water | 15 mL | CCO.O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (3R,4S,5S)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5-(1-methylethyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione | 18.9 mg | ClC1=CC=C2[C@@]3(C(NC2=C1)=O)[C@H](CNC(C[C@H]3C(C)C)=O)C3=CC(=CC=C3)Cl | C22H22Cl2N2O2
